2148-12-08 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - very low dose of neo, but wasn't able to completely wean off
   - sedation weaned off, patient awake and following commands
   - very hypotensive initially likely from excessive versed given in ER
   but improved
 INVASIVE VENTILATION - START [**2148-12-7**] 01:43 PM
 DIALYSIS CATHETER - START [**2148-12-7**] 08:34 PM
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-8**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**50**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 113 (92 - 119) bpm
   BP: 114/67(78) {62/39(43) - 120/75(85)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                    823 mL
                                                                    193 mL
   PO:
   TF:
   IVF:
                                                                    703 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    823 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 426
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 97%
   ABG: ///23/
   Ve: 10.3 L/min
   Physical Examination
   Gen: intubated, sedated, opens eyes to voice
   CV: RRR
   Lungs: coarse BS throughout, crackles at bases
   Abd: distendend, large firm mass (liver) palpated throughout, non
   tender
   Ext: trace edema bilaterally
   Neuro: R pupil 4 mm, L pupil 3 mm, both reactive to light; follows
   commands. Able to move all extremities
   Labs / Radiology
   333 K/uL
   8.7 g/dL
   64 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.3 mEq/L
   59 mg/dL
   95 mEq/L
   132 mEq/L
   28.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2148-12-8**]  03:43 AM
   WBC
   12.8
   Hct
   28.7
   Plt
   333
   Cr
   3.4
   Glucose
   64
   Other labs: PT / PTT / INR:47.7/42.7/5.2, Ca++:8.8 mg/dL, Mg++:2.4
   mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   63 yo female with polycystic kidney/liver disease with ESLD and ESRD on
   HD, h/o budd chiari, h/o ICH secondary to ruptured [**Doctor Last Name **] aneuyrsm,
   discharged on [**12-5**] after prolonged hospitalization for anemia, SBP now
   readmitted with tachypnea/hypoxia in the setting of a witnessed
   aspiration event
   # Tachypnea/hypoxia: patient had witness aspiration event.  CXR without
   any clear infiltrate except for existing bilateral plerual effusions,
   though it would be early to develop pneumonia that quickly.  Likely
   patient has pneumonitis, still afebrile with leukocytosis.  Given this
   was witness, unlikely to be something like PE, and also therapeutic
   INR.
   - cont on AC with current settings for now; will attempt to wean FiO2
   as tolerated
   - will hold off on abx for now given patient is afebrile; likely just
   pneumonitis.  if patient starts to spike temps or has significant
   leukocytosis, will start vanco/zosyn for HAP/aspiration
   - cont atrovent/xopenex nebs (home meds)
   - repeat CXR in AM
   - monitor sats to assess for hypoxia; no urgent need for a-line
   placement
   - check blood/sputum cx
   - speech/swallow consult once patient extubated
   # Hypotension: patient hypotensive peri intubation likely due to
   medications.  She received significant dose of midazolam prior to
   bringing to the ICU.
   - 500 cc NS bolus now
   - cont peripheral neo, but attempt to wean; if needed for >6 hrs will
   needs CVL placement but will hold off for now
   - f/u blood cultures/sputum cx
   - cont midodrine for BP control
   # ESLD: no concern for SBP at this time given clear inciting event for
   hypoxia/tachypnea
   - if patient [**Last Name (LF) 2180**], [**First Name3 (LF) 124**] consider paracentesis for SBP though last US
   with minimal fluid
   - cont lactulose and rifaximin
   - transplant surgery/hepatology following- awaiting transplant
   # ESRD on HD: stable
   - renal aware
   - cont nephrocaps and sevelamer
   # Hypothyroidism: cont levothyroxine
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 PNEUMONIA, ASPIRATION
 ASCITES
 HEPATIC FAILURE, FULMINANT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2148-12-7**] 02:08 PM
   20 Gauge - [**2148-12-7**] 02:08 PM
   Dialysis Catheter - [**2148-12-7**] 08:34 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2148-12-08 08:01:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI: 63 yo female with polycystic kidney/liver with ESLD and ESRD on
   HD, h/o budd chiari, h/o ICH from ruptured [**Doctor Last Name **] aneuyrsm, discharged
   on [**12-5**] after a prolonged hospitalization for anemia, SBP, now presents
   from rehab after a witnessed episode of aspiration this morning during
   breakfast leading to tachypnea and dyspnea.  She was brought to our ED
   with a RR in the 40-50s.  She was intubated on arrival for respiratoy
   distress.
   In the ED, initial VS: 130, 152/100, 43, 100% NRB.  Patient appeared in
   respiratory distress, and was intubated in the ED.  She was given
   vanc/zosyn for coverage of aspiration pneumonia.  Peri-intubation, she
   had decreased BP likely due to the medications, and she was placed on
   peripheral neosynephrine for BP control.  She was then transferred to
   the MICU.
   Currently, she is intubated and sedated.  She was unable to give any
   history.
   24 Hour Events:
   Neo weaned down but unable to titrate off. Somnolence improved with all
   sedating medications held. Switched to PSV 12/5.
 INVASIVE VENTILATION - START [**2148-12-7**] 01:43 PM
 DIALYSIS CATHETER - START [**2148-12-7**] 08:34 PM
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   bactrim, vanc / zosyn
   midodrine (held
will restart)
   alb, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**50**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 113 (92 - 119) bpm
   BP: 114/67(78) {62/39(43) - 120/75(85)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                    823 mL
                                                                    198 mL
   PO:
   TF:
   IVF:
                                                                    703 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    823 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 426
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 97%
   ABG: ///23/
   Ve: 10.3 L/min
   Physical Examination
   GEN: opens eye briefly to loud voice, improved from prior
   HEENT: Intubated
   Lung: CTA-B
   Cor: RRR no m/r/g
   Abd: Firm, markedly distended with enormous hard / nodular liver,
   distended lower abd with possible ascites, +BS
   Ext: no c/c/e
   Skin:  no lesions
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   333 K/uL
   64 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.3 mEq/L
   59 mg/dL
   95 mEq/L
   132 mEq/L
   28.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2148-12-8**]  03:43 AM
   WBC
   12.8
   Hct
   28.7
   Plt
   333
   Cr
   3.4
   Glucose
   64
   Other labs: PT / PTT / INR:47.7/42.7/5.2, Ca++:8.8 mg/dL, Mg++:2.4
   mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   63F (polycystic kidney/liver disease with ESLD and ESRD on HD, h/o ICH
   secondary to ruptured [**Doctor Last Name **] aneuyrsm, discharged on [**12-5**] after prolonged
   hospitalization for anemia and SBP) now readmitted with
   tachypnea/hypoxemia in the setting of a witnessed aspiration event .
   # Respiratory failure: Likely [**12-31**] witnessed aspiration event. CXR
   clear. Likely pneumonitis, still afebrile with mild leukocytosis.
   - SBT daily (failed this AM)
   - cont vanc / zosyn
   - f/u blood/sputum cx
   - cont atrovent/xopenex nebs (home meds)
   [] repeat CXR now
   - monitor sats to assess for hypoxia; no urgent need for a-line
   placement
   - speech/swallow consult once patient extubated
   # Hypotension: Minimal neo pressor requirement likely due to
   medication, positive-pressure, pneumonitis and low at baseline and b/c
   midodrine held.
   - f/u blood cultures/sputum cx
   [] send C Diff
   [] Restart midodrine and repeat attempt to wean off neo. If unable to
   turn off neo, will discuss central access.
   #Supratherapeutic INR:
   - hold coumadin
   # ESLD: Less concern for SBP at this time given clear inciting event
   for hypoxia/tachypnea.
   - if patient clinically worsens (mildly improving now), will consider
   paracentesis for SBP though last had minimal return.
   - cont lactulose and rifaximin
   - transplant surgery/hepatology following--awaiting transplant
   # ESRD on HD: stable
   - renal aware
   - cont nephrocaps and sevelamer
   # Hypothyroidism: cont levothyroxine
   ICU Care
   Nutrition: NPO for now
   Prophylaxis:
   DVT: (Systemic anticoagulation: supertherapeutic INR)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Lines:
   22 Gauge - [**2148-12-7**] 02:08 PM
   20 Gauge - [**2148-12-7**] 02:08 PM
   Dialysis Catheter - [**2148-12-7**] 08:34 PM
   Total time spent: 30 mins
   ------ Protected Section ------
   MICU ATTENDING
   Patient remains intubated. Oxygenation good on FIO2 0.5. Able to wean
   off phenylephrine today. Midodrine restarted. Requiring D10 infusion to
   sustain blood sugars.
   On exam, patient is intubated and sedated. ETT and OG tubes in place.
   Heart sounds are soft. No gallop or murmur. Chest with coarse large
   airway sounds. Abdomen distended with umbilical hernia. Area of
   erythema over lower abdomen.
   CXR shows increasing haziness over both lung fields consistent with
   increasing pleural effusions and interstitial edema.
   IMP:
   Hypotension
   Liver failure
   Renal failure
   Respiratory failure
   Pneumonia
   Hypotension improved as versed has presumably been metabolized.
   Midodrine restarted in setting of her liver disease. Antibiotics
   continue for aspiration pneumonia and possible cellulitis. Patient
   scheduled for dialysis tomorrow; suspect  volume overload is
   contributing to her respiratory failure now. Electrolytes acceptable.
   Continue lactulose.
   Critical Care
   Time 30 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2148-12-8**] 16:56 ------

2148-12-09 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**12-8**]
   -- Patient with low blood pressures throughout day, was able to ween
   off pressors with midodrine.  Low blood pressures in the 70s
   overnight.  Responded well albumin.
   -- CXR with ? blossing infiltate in RLL vs. asp pneumonitis; restarted
   abx during rounds giving pressor requirement and vent difficulties with
   RISBI of 400
   -- started TF
   -- INR cont to climb. gave 2mg vit K
   -- d/w renal potential of CVVH, will d/w attending for potential today.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2148-12-8**] 10:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-12-8**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**50**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 104 (97 - 117) bpm
   BP: 98/56(66) {79/44(53) - 131/77(89)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  2,951 mL
                                                                    841 mL
   PO:
   TF:
                                                                    290 mL
                                                                    261 mL
   IVF:
                                                                  1,691 mL
                                                                    280 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,951 mL
                                                                    841 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 458 (458 - 458) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/32/115/20/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Gen: intubated, sedated, opens eyes to voice
   CV: RRR
   Lungs: coarse BS throughout, crackles at bases
   Abd: distendend, large firm mass (liver) palpated throughout, non
   tender
   Ext: trace edema bilaterally
   Neuro: R pupil 4 mm, L pupil 3 mm, both reactive to light; follows
   commands. Able to move all extremities
   Labs / Radiology
   319 K/uL
   7.3 g/dL
   158 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   65 mg/dL
   91 mEq/L
   128 mEq/L
   23.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2148-12-8**]  03:43 AM
                             [**2148-12-8**]  02:52 PM
                             [**2148-12-9**]  03:34 AM
   WBC
   12.8
   11.4
   Hct
   28.7
   23.9
   Plt
   333
   319
   Cr
   3.4
   3.7
   TCO2
   25
   Glucose
   64
   158
   Other labs: PT / PTT / INR:73.3/52.2/8.6, ALT / AST:18/35, Alk Phos / T
   Bili:210/0.5, Albumin:2.5 g/dL, LDH:203 IU/L, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   63 yo female with polycystic kidney/liver disease with ESLD and ESRD on
   HD, h/o budd chiari, h/o ICH secondary to ruptured [**Doctor Last Name **] aneuyrsm,
   discharged on [**12-5**] after prolonged hospitalization for anemia, SBP now
   readmitted with tachypnea/hypoxia in the setting of a witnessed
   aspiration event
   # Respiratory failure: patient had witness aspiration event.  CXR
   without any clear infiltrate except for existing bilateral plerual
   effusions, though it would be early to develop pneumonia that quickly.
   Likely patient has pneumonitis, still afebrile with leukocytosis.  Now
   with persistent hypotension would also consider sepsis.
   - cont on AC with current settings for now; will attempt to wean FiO2
   as tolerated
   - cont vanc/zosyn
   - cont atrovent/xopenex nebs (home meds)
   - repeat CXR
   - monitor sats to assess for hypoxia; no urgent need for a-line
   placement
   - f/u blood/sputum cx
   - speech/swallow consult once patient extubated
   # Hypotension/?sepsis: patient hypotensive peri intubation likely due
   to medications.  Requiring pressors. On midodrine at home but has not
   received it while here in the ICU.
   - monitor for bleeding as below for possible causes of hypotension
   - cont midodrine
   - f/u blood cultures/sputum cx
   # Anemia: HCT drop from prior.  No clear source.  BP still holding at
   this time
   - guaiac stools
   - check PM HCT
   - active T&S
   # ESLD: no concern for SBP at this time given clear inciting event for
   hypoxia/tachypnea
   - check abdominal US to evaluate for fluid
   - cont lactulose and rifaximin
   - transplant surgery/hepatology following- awaiting transplant
   # ESRD on HD: stable
   - renal aware- will attempt HD today; if BP doesn
t tolerate, will do
   CVVH
   - cont nephrocaps and sevelamer
   # Hypothyroidism: cont levothyroxine
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 PNEUMONIA, ASPIRATION
 ASCITES
 HEPATIC FAILURE, FULMINANT
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2148-12-9**] 12:11 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-12-7**] 08:34 PM
   20 Gauge - [**2148-12-8**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-12-09 11:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, aspiration
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -weaned off pressors
   -low pressures
   -changed from AC to PSV this morning
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2148-12-8**] 10:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2148-12-9**] 10:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-9**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**50**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 111 (99 - 117) bpm
   BP: 96/55(64) {79/44(53) - 125/77(88)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   Bladder pressure: 16 (13 - 16) mmHg
   Total In:
                                                                  2,951 mL
                                                                  1,281 mL
   PO:
   TF:
                                                                    290 mL
                                                                    414 mL
   IVF:
                                                                  1,691 mL
                                                                    418 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,951 mL
                                                                  1,181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 415 (415 - 415) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.48/32/115/20/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   319 K/uL
   158 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   65 mg/dL
   91 mEq/L
   128 mEq/L
   23.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2148-12-8**]  03:43 AM
                             [**2148-12-8**]  02:52 PM
                             [**2148-12-9**]  03:34 AM
   WBC
   12.8
   11.4
   Hct
   28.7
   23.9
   Plt
   333
   319
   Cr
   3.4
   3.7
   TCO2
   25
   Glucose
   64
   158
   Other labs: PT / PTT / INR:73.3/52.2/8.6, ALT / AST:18/35, Alk Phos / T
   Bili:210/0.5, Albumin:2.6 g/dL, LDH:203 IU/L, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   63F h/o polycystic kidney/liver disease with ESLD and ESRD on HD, h/o
   ICH secondary to ruptured [**Doctor Last Name **] aneuyrsm, discharged on [**12-5**] after
   prolonged hospitalization for anemia and SBP) now readmitted with
   tachypnea/hypoxemia in the setting of a witnessed aspiration event .
   # Respiratory failure:
   - Presumed due to witnessed aspiration event
   - SBT
   - cont vanc / zosyn pending cx data guidance
   - cont atrovent/xopenex nebs (home meds)
   - speech/swallow consult once patient extubated
   # Hypotension:
   - able to wean off pressors
   #Supratherapeutic INR:
   - hold coumadin
   # ESLD:
   - cont lactulose and rifaximin
   - transplant surgery/hepatology following--awaiting transplant
    # ESRD on HD: stable
   - renal aware
   - cont nephrocaps and sevelamer
   # Hypothyroidism:
   - cont levothyroxine
   # Anemia
   - hct down 29->24
   - guiac stools, serial hct
   # Nutrition
   - Tube feeds
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2148-12-9**] 08:40 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-12-7**] 08:34 PM
   20 Gauge - [**2148-12-8**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2148-12-10 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - rested her on AC overnight
   - spiked to 100.7 at midnight -> bcx, scx
   - got ~2L taken off at HD
   - got abd u/s
   - call around 1 a.m.: Liver Fellow--she has a liver potentially
   - going to OR for liver transplant around 8 am
 ULTRASOUND - At [**2148-12-9**] 12:00 PM
 SPUTUM CULTURE - At [**2148-12-10**] 12:06 AM
 BLOOD CULTURED - At [**2148-12-10**] 12:06 AM
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Trileptal (Oral) (Oxcarbazepine)
   Nausea/Vomiting
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2148-12-8**] 10:52 AM
   Vancomycin - [**2148-12-9**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2148-12-9**] 10:01 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-12-10**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**50**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 101 (101 - 129) bpm
   BP: 94/56(65) {84/45(55) - 137/71(86)} mmHg
   RR: 24 (20 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  3,072 mL
                                                                    300 mL
   PO:
   TF:
                                                                    921 mL
                                                                     64 mL
   IVF:
                                                                    794 mL
                                                                     76 mL
   Blood products:
                                                                    386 mL
                                                                    100 mL
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                     72 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 435 (395 - 435) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 8.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   270 K/uL
   7.2 g/dL
   105 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   38 mg/dL
   96 mEq/L
   135 mEq/L
   23.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2148-12-8**]  03:43 AM
                             [**2148-12-8**]  02:52 PM
                             [**2148-12-9**]  03:34 AM
                             [**2148-12-9**]  02:14 PM
                             [**2148-12-10**]  02:52 AM
   WBC
   12.8
   11.4
   10.7
   Hct
   28.7
   23.9
   25.4
   23.2
   Plt
   333
   319
   270
   Cr
   3.4
   3.7
   2.7
   TCO2
   25
   Glucose
   64
   158
   105
   Other labs: PT / PTT / INR:26.3/39.9/2.5, ALT / AST:16/23, Alk Phos / T
   Bili:218/0.8, Albumin:2.8 g/dL, LDH:203 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   63 yo female with polycystic kidney/liver disease with ESLD and ESRD on
   HD, h/o budd chiari, h/o ICH secondary to ruptured [**Doctor Last Name **] aneuyrsm,
   discharged on [**12-5**] after prolonged hospitalization for anemia, SBP now
   readmitted with tachypnea/hypoxia in the setting of a witnessed
   aspiration event
   # Respiratory failure: patient had witness aspiration event.  CXR
   without any clear infiltrate except for existing bilateral plerual
   effusions, though it would be early to develop pneumonia that quickly.
   Likely patient has pneumonitis, still afebrile with leukocytosis.  Now
   with persistent hypotension would also consider sepsis.
   - cont on AC with current settings for now; will attempt to wean FiO2
   as tolerated
   - will start vanc/zosyn for HAP/aspiration
   - cont atrovent/xopenex nebs (home meds)
   - repeat CXR
   - monitor sats to assess for hypoxia; no urgent need for a-line
   placement
   - f/u blood/sputum cx
   - speech/swallow consult once patient extubated
   # Hypotension/?sepsis: patient hypotensive peri intubation likely due
   to medications.  Requiring pressors. On midodrine at home but has not
   received it while here in the ICU.
   - cont peripheral neo but attempt to wean; INR 5 and high-risk for CVL
   placement
   - restart midodrine
   - f/u blood cultures/sputum cx
   # ESLD: no concern for SBP at this time given clear inciting event for
   hypoxia/tachypnea
   - if patient [**Last Name (LF) 2180**], [**First Name3 (LF) 124**] consider paracentesis for SBP though last US
   with minimal fluid
   - cont lactulose and rifaximin
   - transplant surgery/hepatology following- awaiting transplant
   # ESRD on HD: stable
   - renal aware
   - cont nephrocaps and sevelamer
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 PNEUMONIA, ASPIRATION
 ASCITES
 HEPATIC FAILURE, FULMINANT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2148-12-7**] 08:34 PM
   20 Gauge - [**2148-12-8**] 02:40 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU